US05329042
(1S, 6S)-1-methoxycarbonyl-6-benzylcyclohex-4-ene
438 mg of (1S, 2R)-2-benzoyl-1-methoxycarbonylcyclohex-4-ene was dissolved in 2.5 ml of trifluoroacetic acid. To the solution, 2.5 ml of triethylsilyl hydride (Et3SiH) was added at 50° C., and the solution was stirred for 30 minutes at the same temperature. After the solution was allowed to stand to return to room temperature, a saturated sodium bicarbonate solution was added, and the water layer was extracted with ether. Then, the organic layer was dried over anhydrous magnesium sulfate, concentrated, and the residure was subjected to silica gel column chromatography (ether:hexane=4:96), thereby obtaining 221 mg of the titled compound.

reactant | (1S, 2R)-2-benzoyl-1-methoxycarbonylcyclohex-4-ene | 438 mg | C(C1=CC=CC=C1)(=O)[C@H]1[C@H](CC=CC1)C(=O)OC | C15H16O3
reactant | triethylsilyl hydride | 2.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1S, 6S)-1-methoxycarbonyl-6-benzylcyclohex-4-ene | 221 mg, Yield: 54% | COC(=O)[C@H]1CCC=C[C@@H]1CC1=CC=CC=C1 | C15H18O2
